US06187793B1
A mixture of 0.87 g (3 mmoles) of 7-(3-chloropropoxy)-4-oxochromene-3-carboxylic acid, 0.7 g (3 mmoles) of 6-fluoro-3-(4-piperidinyl)-benzo[d]isoxazole hydrochloride, 0.85 g (6 mmoles) of anhydrous potassium carbonate and a catalytic amount of potassium iodide in 25 mL of N,N-dimethylformamide was heated to 89-90° C. for 24 hours. After being cooled, the solution was poured onto 125 mL of water and then neutralized with HCl at pH 7. The precipitate obtained was filtered, washed with water and dried at vaccum. The solid was dissolved in 60 mL of 0.1M NaOH, diluted with water to 300 mL and the solution was washed with ethyl acetate. The aqueous solution was acidified with HCl to pH 1-2, and the precipitate obtained was filtered and dried at vaccum to give 0.62 g of 7-[3-[4-(6-fluorobenzo[d]isoxazole-3-yl)piperidin-1-yl]propoxy]-4-oxochromene-3-carboxylic acid hydrochloride in 40% yield.

reactant | 7-(3-chloropropoxy)-4-oxochromene-3-carboxylic acid | 3 mmoles, 0.87 g | ClCCCOC1=CC=C2C(C(=COC2=C1)C(=O)O)=O | C13H11ClO5
reactant | 6-fluoro-3-(4-piperidinyl)-benzo[d]isoxazole hydrochloride | 3 mmoles, 0.7 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | potassium carbonate | 6 mmoles, 0.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | HCl | Cl | ClH
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | water | 125 mL | O | H2O
product | 7-[3-[4-(6-fluorobenzo[d]isoxazole-3-yl)piperidin-1-yl]propoxy]-4-oxochromene-3-carboxylic acid hydrochloride | 0.62 g, 40% yield | Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=CC=C3C(C(=COC3=C2)C(=O)O)=O)C=C1 | InChI=1S/C25H23FN2O6.ClH/c26-16-2-4-18-22(12-16)34-27-23(18)15-6-9-28(10-7-15)8-1-11-32-17-3-5-19-21(13-17)33-14-20(24(19)29)25(30)31;/h2-5,12-15H,1,6-11H2,(H,30,31);1H
